US08735384B2
A mixture of 3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine (0.18 g, 0.50 mmol), 1-(2-bromo-3-methylphenyl)-3,4-dihydroisoquinoline (0.10 g, 0.33 mmol), potassium phosphate (0.354 g, 1.67 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (0.032 g, 0.067 mmol) and Pd2 dba3 (0.015 g, 0.017 mmol) were treated with dioxane (2.22 mL) and Water (1.11 mL) in a medium-sized Smith synthesizer vial. The mixture was heated to 140° C. for 12 min in a microwave reactor. The reaction mixture was filtered then partitioned between EtOAc and water. The organic layers were washed with water and brine and then concentrated in vacuo. The crude product was purified by silica flash chromatography (1-10% MeOH:DCM) and then by HPLC (10-75% acetonitril/H2O; TFA modifier). A single fraction was treated with NH4OH, concentrated, filtered and air-dried to afford 6-(2-(3,4-dihydroisoquinolin-1-yl)-6-methylphenyl)-3-morpholinoquinolin-2-amine MS (ESI, pos. ion) m/z: 449 (M+1).

reactant | 3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine | 0.50 mmol, 0.18 g | O1CCN(CC1)C=1C(=NC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C)N | C19H26BN3O3
reactant | 1-(2-bromo-3-methylphenyl)-3,4-dihydroisoquinoline | 0.33 mmol, 0.10 g | BrC1=C(C=CC=C1C)C1=NCCC2=CC=CC=C12 | C16H14BrN
reactant | potassium phosphate | 1.67 mmol, 0.354 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.067 mmol, 0.032 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | Pd2 dba3 | 0.017 mmol, 0.015 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | 1.11 mL | O | H2O
solvent | dioxane | 2.22 mL | O1CCOCC1 | C4H8O2
product | 6-(2-(3,4-dihydroisoquinolin-1-yl)-6-methylphenyl)-3-morpholinoquinolin-2-amine | C1(=NCCC2=CC=CC=C12)C1=C(C(=CC=C1)C)C=1C=C2C=C(C(=NC2=CC1)N)N1CCOCC1 | C29H28N4O
